US07732461B2
(b) 8-fluoro-2,3-dihydro-1,4-benzodioxin-6-carboxaldehyde
To a solution of 3-fluoro-4,5-dihydroxybenzaldehyde (0.66 g, 4.2 mmol) in DMF (30 ml) was added potassium carbonate (1.15 g, 8.3 mmol) and 1,2-dibromoethane (0.72 ml, 8.3 mmol) and the resultant mixture was heated to 80° C. for 18 h before the solvent was removed under reduced pressure. The reaction mixture was then treated with dichloromethane and water. The aqueous phase was extracted twice with dichloromethane and the combined organic phases were dried and the solvent was removed under reduced pressure to give the desired compound as a cream solid (0.73 g, 95%).

reactant | 3-fluoro-4,5-dihydroxybenzaldehyde | 4.2 mmol, 0.66 g | FC=1C=C(C=O)C=C(C1O)O | C7H5FO3
reactant | potassium carbonate | 8.3 mmol, 1.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 8.3 mmol, 0.72 ml | BrCCBr | C2H4Br2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 8-fluoro-2,3-dihydro-1,4-benzodioxin-6-carboxaldehyde | 0.73 g, 95% | FC1=CC(=CC2=C1OCCO2)C=O | C9H7FO3
